US08026365B2
Step 2: 4-Chloro-N-(4-cyano-piperidin-4-yl)-benzamide hydrochloride (Intermediate A4)
A solution of 4-(4-chloro-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (0.23 g, 0.63 mmol) in 4 M HCl in dioxane (30 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the hydrochloride salt. Note: The product is contaminated with some primary amide (partial hydrolysis of the nitrile). MS (ISP): 264.1 [M+H]+.

reactant | 4-(4-chloro-benzoylamino)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 0.23 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)NC(C1=CC=C(C=C1)Cl)=O | C18H22ClN3O3
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 4-Chloro-N-(4-cyano-piperidin-4-yl)-benzamide hydrochloride | Cl.ClC1=CC=C(C(=O)NC2(CCNCC2)C#N)C=C1 | InChI=1S/C13H14ClN3O.ClH/c14-11-3-1-10(2-4-11)12(18)17-13(9-15)5-7-16-8-6-13;/h1-4,16H,5-8H2,(H,17,18);1H
